US08110642B2
This Example was carried out in the same manner as Example 10, except that 23.42 g (0.158 mol) of 4-vinyl-phenyl boronic acid, 20.0 g (0.1055 mol) of 4-(2-chloro-phenyl)pyridine, 500□ of 1,4-dioxane, 27.54 g (0.474 mol, 3.3 equivalent) of fluoro-potassium, 1.69 g (0.0084 mol, 5.3 mol %) of t-butylphosphine [P( t-Bu)3)], and 2.6 g (0.0028 mol, 1.8 mol %) of palladium tris(dibenzylidene acetone) [Pd2(dba)3] were used. Finally, after the resulting solution was heated to reflux at 80° C. for 24 hours, the 4-(4′-vinyl-biphenyl-2-yl)pyridine was isolated. The yield was 42%.

reactant | 4-vinyl-phenyl boronic acid | 0.158 mol, 23.42 g | C(=C)C1=CC=C(C=C1)B(O)O | C8H9BO2
reactant | 4-(2-chloro-phenyl)pyridine | 0.1055 mol, 20.0 g | ClC1=C(C=CC=C1)C1=CC=NC=C1 | C11H8ClN
reactant | fluoro-potassium | 0.474 mol, 27.54 g, 3.3 equivalent | F[K]
reactant | t-butylphosphine | 0.0084 mol, 1.69 g | C(C)(C)(C)P | C4H11P
catalyst | palladium tris(dibenzylidene acetone) | 0.0028 mol, 2.6 g | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-(4′-vinyl-biphenyl-2-yl)pyridine | yield was 42% | C(=C)C1=CC=C(C=C1)C1=C(C=CC=C1)C1=CC=NC=C1 | C19H15N
